US07153875B2
A solution of toluene (2.5 mL), piperidine (0.003 mL), acetic acid (0.004 mL), 6-(3-phenyl-4-methoxyphenyl)-2-naphthaldehyde (0.124 g, 0.37 mmol) and 2-thioxo-4-thiazolidinone (0.049 mg, 0.37 mmol) was heated at reflux for 20.5 hours under an argon atmosphere. The resulting suspension was filtered and the solid was stirred at room temperature in EtOH. After 2 hours, the solid was filtered and dried under high vacuum to afford 0.117 g (70%) of 6-(3-phenyl-4-methoxyphenyl)-naphthalen-2-yl-methylene-2-thioxo4-thiazolidinone, mp 266–269° C. 1H NMR (300 MHz, DMSO-d6): δ 3.82 (s, 3H), 7.25 (d, J=8.4 Hz, 1H), 7.35 (d, J=7.2 Hz, 1H), 7.43 (t, J=7.4 Hz, 2H), 7.57 (d, J=7.2 Hz, 2H), 7.67 (d, J=8.7 Hz, 1H), 7.75 (d, J=2.4 Hz, 1H), 7.77 (s, 1H), 7.84 (dd, J1=6.0 Hz, J2=2.4 Hz, 1H), 7.98 (d, J=8.7 Hz, 1H), 8.10 (t, J=9.0 Hz, 2H), 8.19 (s, 1H), 8.30 (s, 1H), 13.96 (brs, 1H).

reactant | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 0.003 mL | N1CCCCC1 | C5H11N
reactant | 6-(3-phenyl-4-methoxyphenyl)-2-naphthaldehyde | 0.37 mmol, 0.124 g | C1(=CC=CC=C1)C=1C=C(C=CC1OC)C=1C=C2C=CC(=CC2=CC1)C=O | C24H18O2
reactant | 2-thioxo-4-thiazolidinone | 0.37 mmol, 0.049 mg | S=C1SCC(N1)=O | C3H3NOS2
solvent | acetic acid | 0.004 mL | C(C)(=O)O | C2H4O2
product | 6-(3-phenyl-4-methoxyphenyl)-naphthalen-2-yl-methylene-2-thioxo4-thiazolidinone | 0.117 g, 70% | C1(=CC=CC=C1)C=1C=C(C=CC1OC)C=1C=C2C=CC(=CC2=CC1)N1C(SC(C1=O)=C)=S | C27H19NO2S2
